US09169254B2
Acetic anhydride (4.99 ml) was added to (4-bromo-3-methyl-phenylamino)-acetonitrile (594 mg, 2.64 mmol), and the mixture was heated with stirring at 115° C. for one hour. The reaction solution was cooled and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give N-(4-bromo-3-methyl-phenyl)-N-cyanomethyl-acetamide (697 mg, 99%).

reactant | Acetic anhydride | 4.99 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | (4-bromo-3-methyl-phenylamino)-acetonitrile | 2.64 mmol, 594 mg | BrC1=C(C=C(C=C1)NCC#N)C | C9H9BrN2
product | N-(4-bromo-3-methyl-phenyl)-N-cyanomethyl-acetamide | 697 mg, 99% | BrC1=C(C=C(C=C1)N(C(C)=O)CC#N)C | C11H11BrN2O
